US07935713B2
Step A: (1RS)-4,4,4-Trifluoro-1-(7-methoxyquinolin-3-yl)butan-1-ol
BuMgCl (0.16 mL of a 2 M solution in ether, 0.32 mmol) was added to 1 mL of toluene at −10° C. n-BuLi (0.26 mL of a 2.5 M solution in hexanes, 0.64 mmol) was added dropwise and the reaction mixture was allowed to age at −10° C. for 45 min. A solution of 3-bromo-7-methoxyquinoline (200 mg,) in 1 mL of toluene was added at −20° C. After 1 h, the reaction mixture was cooled to −78° C. and 4,4,4-trifluorobutyraldehyde (0.16 mL, 1 mmol) was added and the reaction mixture was slowly allowed to warm to ambient temperature. The procedure was repeated proportionally using 440 mg (1.8 mmol) of 3-bromo-7-methoxyquinoline. The two reactions were combined and partitioned between water and hexanes-EtOAc. The organic phase was concentrated and purified by flash chromatography on silica gel (25% to 66% EtOAc/hexanes) to provide the title compound as a racemic mixture. 1H NMR (500 MHz, CD2Cl2): δ (ppm) 8.71 (d, J=2.1 Hz, 1H), 8.06 (s, 1H), 7.70 (d, J=8.9 Hz, 1H), 7.35 (d, J=2.1 Hz, 1H), 7.21 (dd, J=8.9, 2.2 Hz, 1H), 4.93 (m, 1H), 3.93 (s, 3H), 2.33 (m, 2H).

reactant | BuMgCl | C(CCC)[Mg]Cl
reactant | n-BuLi | [Li]CCCC
reactant | 3-bromo-7-methoxyquinoline | 200 mg | BrC=1C=NC2=CC(=CC=C2C1)OC | C10H8BrNO
reactant | 4,4,4-trifluorobutyraldehyde | 1 mmol, 0.16 mL | FC(CCC=O)(F)F | C4H5F3O
reactant | 3-bromo-7-methoxyquinoline | 1.8 mmol, 440 mg | BrC=1C=NC2=CC(=CC=C2C1)OC | C10H8BrNO
solvent | ether | CCOCC | C4H10O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | (1RS)-4,4,4-Trifluoro-1-(7-methoxyquinolin-3-yl)butan-1-ol | FC(CCC(O)C=1C=NC2=CC(=CC=C2C1)OC)(F)F | C14H14F3NO2
